US07427635B2
To a solution of (S)-3-((2S,3S)-2-azido-3-phenyl-pentanoyl)-4-phenyl-oxazolidin-2-one (4.0 g, 11 mmol) and di-tert-butyl dicarbonate (4.8 g, 22 mmol) in ethyl acetate (100 mol) was added 10% palladium on carbon (2 g) under nitrogen. The resulting suspension was vigorously shaken under an atmosphere of hydrogen (55 psi) in a Parr apparatus for 20 hours. The mixture was then filtered through a short pad of celite and the filtrate was concentrated. The residue was purified by chromatography over silica gel eluted with 1:4 ethyl acetate/hexanes to give [(1S,2S)-1-((S)-2-oxo-4-phenyl-oxazolidine-3-carbonyl)-2-phenyl-butyl]-carbamic acid tert-butyl ester as a white foam (4.38 g, 90%).

reactant | (S)-3-((2S,3S)-2-azido-3-phenyl-pentanoyl)-4-phenyl-oxazolidin-2-one | 11 mmol, 4.0 g | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)[C@@H](CC)C1=CC=CC=C1 | C20H20N4O3
reactant | di-tert-butyl dicarbonate | 22 mmol, 4.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 100 mol | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | [(1S,2S)-1-((S)-2-oxo-4-phenyl-oxazolidine-3-carbonyl)-2-phenyl-butyl]-carbamic acid tert-butyl ester | 4.38 g, 90% | C(C)(C)(C)OC(N[C@@H]([C@@H](CC)C1=CC=CC=C1)C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O | C25H30N2O5
